US04680299
5-Fluoroisatin (100 g, 0.61 mole) and 4-cyclohexylpropiophenone (131 g, 0.61 mole) were suspended in 1100 ml of ethanol and stirred mechanically as a solution of 219 g (5.5 mole) of KOH in 550 ml of water was added dropwise. After the addition was complete, the mixture was heated at reflux for 12 hours, cooled, and the ethanol evaporated under reduced pressure. The resulting solid was dissolved in water and washed with ethyl ether. The aqueous layer was acidified with HCl. The resulting precipitate was filtered and dried. Recrystallization from dimethylformamide and water gave 117 g of 2-(4-cyclohexylphenyl)-6-fluoro-3-methylquinoline-4-carboxylic acid, m.p. 316°-323°.

reactant | 5-Fluoroisatin | 0.61 mole, 100 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 4-cyclohexylpropiophenone | 0.61 mole, 131 g | C1CCC(CC1)C(C(=O)C1=CC=CC=C1)C | C15H20O
reactant | KOH | 5.5 mole, 219 g | [OH-].[K+]
reactant | ethanol | 1100 ml | C(C)O | C2H6O
solvent | water | 550 ml | O | H2O
product | 2-(4-cyclohexylphenyl)-6-fluoro-3-methylquinoline-4-carboxylic acid | 117 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1C)C(=O)O)F | C23H22FNO2
